US07723332B2
According to general procedure A, 4-Bromo-3-fluoro-benzenesulfonyl chloride (0.40 g, 1.46 mmol) and ethylamine (5 mL, 10.0 mmol, 2.0 M in THF) were stirred together for 16 hours. 4-bromo-N-ethyl-3-fluorobenzenesulfonamide (0.38 g, 92%) was provided after purification. HRMS: calcd for C8H9BrFNO2S, 280.95214; found (EI, M+.), 280.951. HPLC purity 100.0% at210-370 nm, 9.6 min.; the Xterra® RP18 column, 3.5μ, 150×4.6 mm column, 1.2 mL/min., 85/15-5/95 (ammonium formate buffer pH=3.5/ACN+MeOH) for 10 min., hold 4 min.

reactant | 4-Bromo-3-fluoro-benzenesulfonyl chloride | 1.46 mmol, 0.40 g | BrC1=C(C=C(C=C1)S(=O)(=O)Cl)F | C6H3BrClFO2S
reactant | ethylamine | 10.0 mmol, 2.0 M, 5 mL | C(C)N | C2H7N
product | 4-bromo-N-ethyl-3-fluorobenzenesulfonamide | 0.38 g, 92% | BrC1=C(C=C(C=C1)S(=O)(=O)NCC)F | C8H9BrFNO2S
